US05389684
To a suspension of 1-hydroxy-2-naphthoic acid (3.76 g; 0.02 m) in chloroform (50 ml) was added sulphuryl chloride (2.97 g; 0.022 m) dropwise and the solution stirred at room temperature for two hours. The solvent was removed in vacuo to give a white solid which was washed with water, collected and dried. The crude solid was recrystallised from ethanol to give 4-chloro-1-hydroxy-naphthalene-2-carboxylic acid as white needles.

reactant | 1-hydroxy-2-naphthoic acid | 3.76 g | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | sulphuryl chloride | 2.97 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-1-hydroxy-naphthalene-2-carboxylic acid | ClC1=CC(=C(C2=CC=CC=C12)O)C(=O)O | C11H7ClO3
